US06150524
4,5α-Epoxy-3-methoxymethoxy-6α-(4-(4-methoxyphenyl)-butyryloxy)-17-methyl-morphinane
A solution of 4,5α-epoxy-3-methoxymethoxy-6α-(4-(4-methoxyphenyl)-butyryloxy)-17-methyl-morphinan-7-ene (1.01 g, 2 mmol) in MeOH (40 ml) is mixed with 10% Pd/C (650 mg) and agitated for 1.5 hours under 1 bar of H2 pressure. The catalyst is removed by filtering through Celite and the filtrate is evaporated down. The residue is pure 4,5α-epoxy-3-methoxymethoxy-6α-(4-(4-methoxyphenyl)-butyryloxy)-17-methyl-morphinane (0.87 g, 85.7%).

reactant | 4,5α-epoxy-3-methoxymethoxy-6α-(4-(4-methoxyphenyl)-butyryloxy)-17-methyl-morphinan-7-ene | 2 mmol, 1.01 g | O1C2=C(C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC(CCCC4=CC=C(C=C4)OC)=O)OCOC | C30H35NO6
solvent | MeOH | 40 ml | CO | CH4O
catalyst | Pd/C | 650 mg | [Pd] | Pd
product | 4,5α-Epoxy-3-methoxymethoxy-6α-(4-(4-methoxyphenyl)-butyryloxy)-17-methyl-morphinane | O1C2=C(C=CC=3C[C@@H]4[C@@H]5CC[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC(CCCC4=CC=C(C=C4)OC)=O)OCOC | C30H37NO6
